US09193720B2
To a yellow solution of isopropyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-oxoacetate (7.7 g, 18.72 mmol) and (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole (7.5 mL, 7.50 mmol) in anhydrous toluene (100 mL) was added drop wise 50% catecholborane/toluene (6 mL, 28.0 mmol) over 5 min at −50° C. Then, the reaction mixture was slowly warmed to −30° C. over 1 h and left in refrigerator (−20° C.) for 3 days. Then, the reaction mixture was diluted with EtOAc (100 mL) and 20 mL of 1M Na2CO3, and vigorously stirred for 30 min. Aqueous layer separated and organic layer washed with sat'd Na2CO3 (2×25 mL) by vigorously stirring for 15 each time, then dried (MgSO4), filtered and concentrated to give crude product as light purple paste which was purified by flash chromatography using 0 to 40% EtOAc/hex to afford (S)-isopropyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-hydroxyacetate (6.7 g, 15.72 mmol, 84% yield) as colorless thick paste. 1H NMR (500 MHz, CDCl3) δ 5.85 (d, J=5.7 Hz, 1H), 5.59 (d, J=7.4 Hz, 1H), 5.08 (dt, J=12.5, 6.3 Hz, 1H), 3.98-3.88 (m, 1H), 3.88-3.78 (m, 1H), 2.76-2.68 (m, 1H), 2.67 (s, 3H), 2.64-2.58 (m, 1H), 2.57 (s, 3H), 1.73 (td, J=12.8, 4.8 Hz, 1H), 1.65-1.59 (m, 1H), 1.47-1.35 (m, 2H), 1.27 (d, J=6.3 Hz, 3H), 1.17 (d, J=6.1 Hz, 3H), 1.09 (s, 3H), 1.04 (s, 3H). LCMS (M+H)=414.6.

reactant | isopropyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-oxoacetate | 18.72 mmol, 7.7 g | BrC=1C(=C(C(=NC1C)C)C(C(=O)OC(C)C)=O)N1CCC(CC1)(C)C | C19H27BrN2O3
reactant | (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole | 7.50 mmol, 7.5 mL | CB1OC([C@@H]2N1CCC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C18H20BNO
reactant | catecholborane toluene | 28.0 mmol, 6 mL | [B]1OC2=CC=CC=C2O1.C1(=CC=CC=C1)C
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | Na2CO3 | 1M, 20 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | (S)-isopropyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-hydroxyacetate | 15.72 mmol, 6.7 g, 84% yield | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OC(C)C)O)N1CCC(CC1)(C)C | C19H29BrN2O3
